US03943130
4.56 g (30 mM) of DL-mandelic acid are dissolved in 100 ml. of carbon disulfide and 3.37 g. (60 mM) of pulverized potassium hydroxide are added all at once. Absolute dimethylsulfoxide is then added with stirring until a clear solution is obtained. The whole is stirred for 1 hour and then 4.26 g (30 mM) of methyl iodide are added. After 4 hours the carbon disulfide is removed in vacuum and the oily residue is dissolved in 200 ml. of water. The aqueous solution is extracted three times with 50 ml. of ether. After cooling the aqueous phase to 5°, it is acidified with 2N hydrochloric acid and extracted with ether. From the ether, 3.1 g. of crude DL-α-[(methylthio)thioxomethoxy]benzene acetic acid is obtained. Recrystallization from benzol/cyclohexane yields 2.7 g., m.p. 109°-110°.

reactant | DL-mandelic acid | 30 mM, 4.56 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | carbon disulfide | C(=S)=S | CS2
reactant | potassium hydroxide | 60 mM | [OH-].[K+]
reactant | methyl iodide | 30 mM, 4.26 g | CI | CH3I
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | α-[(methylthio)thioxomethoxy]benzene acetic acid | CSC(OC(C(=O)O)C1=CC=CC=C1)=S | C10H10O3S2
